US04622403
STEP B: Preparation of methyl 2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f]-thiepin-7-carboxylate 5-oxide
To a solution of methyl 2,3,10,11-tetrahydro1H-benzo[b]indeno[5,6-f]thiepin-7-carboxylate (3.05 g; 9.84 mmole) in methylene chloride (200 ml) stirred in a cooling bath at 0°-5° C. was added 85% m-chloroperbenzoic acid (2.00 g; 9.85 mmole) in small portions during 1 hour. After stirring the reaction mixture for 30 minutes at room temperature, more methylene chloride was added to get a clear solution and then calcium hydroxide (4 g) was added. The suspension was stirred for 25 minutes, filtered and evaporated. The crude product was purified by column chromatography (Merck silica gel eluted with 1:4 ethyl acetate/toluene) to yield 2.121 g (66%) of the title compound, m.p. 150°-154° C. (from MeCN).

reactant | methyl 2,3,10,11-tetrahydro1H-benzo[b]indeno[5,6-f]thiepin-7-carboxylate | 9.84 mmole, 3.05 g | C1CCC2=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)OC)C=C12 | C19H18O2S
reactant | m-chloroperbenzoic acid | 9.85 mmole, 2.00 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | 4 g | [OH-].[Ca+2].[OH-]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl 2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f]-thiepin-7-carboxylate 5-oxide | 2.121 g, 66% | C1CCC2=CC3=C(CCC4=C(S3=O)C=C(C=C4)C(=O)OC)C=C12 | C19H18O3S
